US04539152
To a solution of methyl [(3R,4R)-3-amino-4-allyl-2-oxoazetidin-1-yl]-3-methylbut-2-enoate (7.0 g) in methylene chloride (110 ml) were added 2,6-lutidine (4.11 ml) and benzyl chloroformate (5.03 ml) at 0° C. and the mixture was stirred for 30 minutes at 0° C. The reaction mixture was diluted with ethyl acetate (800 ml) and the solution was washed with diluted hydrochloric acid, brine, aqueous saturated sodium bicarbonate, and brine. The organic layer was dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel (200 g) eluting with a mixture of methylene chloride and ethyl acetate (20:1-4:1) to give methyl [(3R,4R)-3-benzyloxycarbonylamino-4-allyl-2-oxoazetidin-1-yl]-3-methylbut-2-enoate (10.7 g) as an oil.

reactant | methyl [(3R,4R)-3-amino-4-allyl-2-oxoazetidin-1-yl]-3-methylbut-2-enoate | 7.0 g | N[C@H]1C(N([C@@H]1CC=C)C(C(=O)OC)=C(C)C)=O | C12H18N2O3
reactant | 2,6-lutidine | 4.11 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | benzyl chloroformate | 5.03 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | methylene chloride | 110 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 800 ml | C(C)(=O)OCC | C4H8O2
product | methyl [(3R,4R)-3-benzyloxycarbonylamino-4-allyl-2-oxoazetidin-1-yl]-3-methylbut-2-enoate | 10.7 g | C(C1=CC=CC=C1)OC(=O)N[C@H]1C(N([C@@H]1CC=C)C(C(=O)OC)=C(C)C)=O | C20H24N2O5
